US09376441B2
N-cyclopropyl-2-methoxy-6-nitroaniline (1.05 g, 5.04 mmol) was dissolved in MeOH (25 mL). Bromine (0.27 mL, 5.2 mmol) was added dropwise over 1 min, and the resulting mixture was stirred 1 h. Additional bromine (0.05 mL, 0.98 mmol) was then added and the resulting mixture was stirred for an additional 30 min. The mixture was then diluted with DCM (75 mL) and H2O (50 mL), and the aqueous phase was basified with saturated aqueous NH4OH (2 mL). The phases were separated, and the aqueous phase was extracted with DCM (30 mL). The combined organic phase was dried over Na2SO4, filtered, and concentrated. The resulting residue was purified by silica gel chromatography (0-25% EtOAc in hexanes) to afford 4-bromo-N-cyclopropyl-2-methoxy-6-nitroaniline. LCMS-ESI+ (m/z): [M+H]+ calcd for C10H12BrN2O3: 287.0; found: 286.9.

reactant | N-cyclopropyl-2-methoxy-6-nitroaniline | 5.04 mmol, 1.05 g | C1(CC1)NC1=C(C=CC=C1[N+](=O)[O-])OC | C10H12N2O3
reactant | Bromine | 5.2 mmol, 0.27 mL | BrBr | Br2
reactant | bromine | 0.98 mmol, 0.05 mL | BrBr | Br2
reactant | NH4OH | 2 mL | [NH4+].[OH-]
solvent | MeOH | 25 mL | CO | CH4O
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 mL | O | H2O
product | 4-bromo-N-cyclopropyl-2-methoxy-6-nitroaniline | BrC1=CC(=C(NC2CC2)C(=C1)[N+](=O)[O-])OC | C10H11BrN2O3
